US08242129B2
4-(4-hydroxy-3-methylphenyl)-6-(5-methylisoxazol-3-yl)pyrimidin-2(1H)-one
A mixture of (E)-1-(4-hydroxy-3-methylphenyl)-3-(5-methylisoxazol-3-yl)prop-2-en-1-one (200 mg, 0.8 mmol) and urea (56 mg, 4.0 mmol) in 4M HCl/dioxane (5 mL) was heated to 120° C. in a sealed vessel overnight. After cooling, the crude reaction mixture was purified by reverse-phase HPLC to give 9 mg of product.

reactant | (E)-1-(4-hydroxy-3-methylphenyl)-3-(5-methylisoxazol-3-yl)prop-2-en-1-one | 0.8 mmol, 200 mg | OC1=C(C=C(C=C1)C(\C=C\C1=NOC(=C1)C)=O)C | C14H13NO3
reactant | urea | 4.0 mmol, 56 mg | NC(=O)N | CH4N2O
solvent | HCl dioxane | 4M, 5 mL | Cl.O1CCOCC1
product | 4-(4-hydroxy-3-methylphenyl)-6-(5-methylisoxazol-3-yl)pyrimidin-2(1H)-one | 9 mg | OC1=C(C=C(C=C1)C1=NC(NC(=C1)C1=NOC(=C1)C)=O)C | C15H13N3O3
